US05750722
Preparation of 2-naphthylhydrazine
57.6 g (0.4 mol) of 2-naphthol and 200 ml of hydrazine (4 mol) are introduced into a 500 ml autoclave. The mixture is stirred at 85° C. at a pressure of 60 bar for approximately 100 hours. The reaction medium is subsequently extracted with dichloromethane. The organic phase is washed with 10% sodium hydroxide, then with water and finally with brine; it is dried over magnesium sulphate. After filtration and evaporation under vacuum, 50.6 g (80%) of product are obtained, the melting point of which is 124° C. (alcohol/water).

reactant | 2-naphthol | 0.4 mol, 57.6 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | hydrazine | 4 mol, 200 ml | NN | H4N2
product | 2-naphthylhydrazine | C1=C(C=CC2=CC=CC=C12)NN | C10H10N2
